US06384080B1
To a suspension of lithium aluminum hydride (1.17 g) in anhydrous tetrahydrofuran (15 mL) was added a solution of 3-ethoxy-4-methoxybenzonitrile (2.73 g) in tetrahydrofuran (15 mL). The mixture was stirred for an hour under water cooling and then for an hour at ambient temperature. Potassium sodium (+)-tartrate aqueous solution was added to the mixture under ice-water cooling. The mixture was diluted with ethyl acetate and the insolubles were filtered off. After evaporation of the filtrate, ethyl acetate was added. The solution was dried over magnesium sulfate and evaporated in vacuo to give 3-ethoxy-4-methoxybenzylamine as yellow oil (2.81 g).

reactant | lithium aluminum hydride | 1.17 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-ethoxy-4-methoxybenzonitrile | 2.73 g | C(C)OC=1C=C(C#N)C=CC1OC | C10H11NO2
reactant | Potassium sodium (+)-tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethoxy-4-methoxybenzylamine | 2.81 g | C(C)OC=1C=C(CN)C=CC1OC | C10H15NO2
